US07947851B2
Step a) Formation of methyl 5-[{4-[(4-butylphenyl)ethynyl]benzyl)(isobutyl)amino]-2-fluorobenzoate
To a solution of methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate (300 mg; 0.72 mmol) in DCE (15 mL) were added isobutyraldehyde (Aldrich, 0.16 ml, 1.81 mmol) and triacetoxyborohydride (229 mg; 1.08 mmol). The reaction mixture was stirred at 60° C. under N2 atmosphere for 4 hours. The mixture was poured into NaHCO3 (100 mL), then the product was extracted with DCM (2×100 mL), washed with brine (100 mL), dried over magnesium sulfate and filtrated. The solvents were removed under reduced pressure. Purification of this crude by flash chromatography on silicagel (c-Hex/EtOAc, gradient 8:2 to 5:5 to 3:7) then by HPLC preparative with a X-Terra column gave 62 mg (19%) of the title compound as a brown oil. HPLC: 6.19 min (purity=96.4%), LC/MS: M+(ESI): 472.4. 1H NMR (CDCl3) δ: 7.44 (d, J=5.6 Hz, 2H), 7.41 (d, J=5.3 Hz, 2H), 7.25 (m, 1H), 7.14 (t, J=7.5 Hz, 4H), 6.94 (t, J=9.6 Hz, 1H), 6.80 (m, 1H), 4.57 (s, 2H), 3.90 (s, 3H), 3.45 (m, 1H), 3.25 (d, J=7.2 Hz, 2H), 2.61 (t, J=7.7 Hz, 2H), 2.05 (m, 1H), 1.60 (m, 2H), (s, J=7.4 Hz, 2H), 0.95 (m, 9H).

reactant | methyl 5-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2-fluorobenzoate | 0.72 mmol, 300 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC=2C=CC(=C(C(=O)OC)C2)F)C=C1 | C27H26FNO2
reactant | isobutyraldehyde | 1.81 mmol, 0.16 ml | C(C(C)C)=O | C4H8O
reactant | triacetoxyborohydride | 1.08 mmol, 229 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | DCE | 15 mL | ClCCCl | C2H4Cl2
product | methyl 5-[{4-[(4-butylphenyl)ethynyl]benzyl)(isobutyl)amino]-2-fluorobenzoate | 62 mg, 19% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)OC)C2)F)CC(C)C)C=C1 | C31H34FNO2
